US06248777B1
The procedure of Preparation Example 1 (6) was repeated using 2,2-bisfluoromethyl-6-iodo-2H-1-benzopyran-4-carboxylic acid ethyl ester, potassium heptafluorobutyrate, cuprous iodide, toluene and N,N-dimethylformamide to give 2,2-bisfluoromethyl-6-heptafluoropropyl-2H-1-benzopyran-4-carboxylic acid ethyl ester as an oil;

reactant | 2,2-bisfluoromethyl-6-iodo-2H-1-benzopyran-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(OC2=C1C=C(C=C2)I)(CF)CF | C14H13F2IO3
reactant | potassium heptafluorobutyrate | FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2-bisfluoromethyl-6-heptafluoropropyl-2H-1-benzopyran-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(OC2=C1C=C(C=C2)C(C(C(F)(F)F)(F)F)(F)F)(CF)CF | C17H13F9O3
